US04737516
(a) 6-Methyl-1,6-heptadien-4-yn-3-ol
10 g Isopropenylacetylene are taken up in abs. tetrahydrofuran and under an inert gas 94.5 ml of 1.6M solution of n-butyllithium in hexane added dropwise at -20°. The mixture is then cooled to -78° and 8.5 g of acrolein added dropwise. The reaction mixture is warmed to room temperature, poured into saturated aqueous NH4Cl and repeatedly extracted with ether. The organic phase is washed, dried and concentrated in vacuum. An oil is obtained.

reactant | Isopropenylacetylene | 10 g | C(=C)(C)C#C | C5H6
reactant | n-butyllithium | C(CCC)[Li]
reactant | acrolein | 8.5 g | C(=O)C=C | C3H4O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-Methyl-1,6-heptadien-4-yn-3-ol | CC(C#CC(C=C)O)=C | C8H10O
